US04704156
BENZYL 1,2,2-TRICHLOROCYCLOPROPANE CARBOXYLATE
To a stirred solution of 9.47 g (0.05 mole) of 1,2,2-trichlorocyclopropane carboxylic acid in 100 ml of reagent grade acetone was added 6.91 g (0.05 mole) of anhydrous potassium carbonate. To this stirred mixture was added 10.26 g (0.06 mole) of benzyl bromide diluted with a small volume of acetone. The reaction mixture was stirred overnight at room temperature and filtered with suction. The insoluble material was washed on the filter with additional acetone. The acetone wash solutions and the filtrate were combined and evaporated in vacuo to dryness. The resulting product residue was dissolved in 200 ml of diethyl ether and washed twice with water, once with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Evaporation of the ether solvent provided a straw-colored semi-viscous liquid which distilled at 145°-146° C./3 mm (5.31 g) identified as the title product.

reactant | 1,2,2-trichlorocyclopropane carboxylic acid | 0.05 mole, 9.47 g | ClC1(C(C1)(Cl)Cl)C(=O)O | C4H3Cl3O2
reactant | potassium carbonate | 0.05 mole, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.06 mole, 10.26 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | CC(=O)C | C3H6O
product | BENZYL 1,2,2-TRICHLOROCYCLOPROPANE CARBOXYLATE | ClC1(C(C1)(Cl)Cl)C(=O)OCC1=CC=CC=C1 | C11H9Cl3O2
